US09326973B2
A mixture of pyridin-2-ylmethanol (91 mg, 0.833 mmol), 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylic acid (100 mg, 0.555 mmol), HBTU (274 mg, 0.722 mmol) and DIEA (0.2 ml, 1.145 mmol) in DCM (2 mL) was stirred at rt for 4 h. The reaction mixture was diluted with EtOAc and washed with NaHCO3, brine, dried (MgSO4), concentrated and the residue was purified by silica gel chromatography (EtOAc/hexane) to afford pyridin-2-ylmethyl 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylate as racemate. Two enantiomers (elute-1 @ 4.04 min and elute-2 @ 4.61 min) were separated by chiral SFC (Chiralpak AD-H preparative column, 20×250 mm, 5 μm, mobile Phase: 10% 2:1 heptane:EtOH in CO2, 150 bar; temp: 35° C.; flow rate: 45 mL/min, UV: 258 nm).

reactant | pyridin-2-ylmethanol | 0.833 mmol, 91 mg | N1=C(C=CC=C1)CO | C6H7NO
reactant | 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylic acid | 0.555 mmol, 100 mg | FC1(CCC(OC1)(C(=O)O)C)F | C7H10F2O3
reactant | HBTU | 0.722 mmol, 274 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.145 mmol, 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | pyridin-2-ylmethyl 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylate | FC1(CCC(OC1)(C(=O)OCC1=NC=CC=C1)C)F | C13H15F2NO3
